US07064131B2
2-[6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-N-(2-methoxy-5-nitrophenyl)-acetamide
[6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid (0.075 g, 0.2 mmol), EDCI (0.055 g, 0.3 mmol), 2-Nitro-5-methoxyaniline (0.044 g, 0.26 mmol), DMAP (0.005 g, 0.04 mmol) in dichloromethane (4.5 ml) and DMF (0.75 ml) react for 5 h in a fashion similar to that of Example 3. Column chromatography (silica gel, acetone/dichloromethane gradient) gives the title compound (0.012 g, 12%). Mass Spectrum (FIA) (m/z) 520.2 [M+1]

reactant | [6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-acetic acid | 0.2 mmol, 0.075 g | ClC=1C=2C=3C(C(N(C2C=CC1)C1=CC=CC(=N1)CC(=O)O)=O)=C(ON3)C | C18H12ClN3O4
reactant | EDCI | 0.3 mmol, 0.055 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-Nitro-5-methoxyaniline | 0.26 mmol, 0.044 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC | C7H8N2O3
reactant | acetone dichloromethane | CC(=O)C.ClCCl
catalyst | DMAP | 0.04 mmol, 0.005 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 4.5 ml | ClCCl | CH2Cl2
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
product | 2-[6-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-pyridin-2-yl]-N-(2-methoxy-5-nitrophenyl)-acetamide | 0.012 g, 12% | ClC=1C=2C=3C(C(N(C2C=CC1)C1=CC=CC(=N1)CC(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])OC)=O)=C(ON3)C | C25H18ClN5O6
